US07425551B2
c) N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide
Using N—[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-2-methyl-malonamic acid and 2,2,3,3,3-pentafluoro-propylamine, the title compound was prepared in the same manner as example 1c (59%). White solid. MS: m/e=606(M+H+).

reactant | N—[(S)-5-(2-benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-2-methyl-malonamic acid | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC(C(C(=O)O)(C)O)=O)C=CC=C3)C=CC=C2 | C27H26N2O6
reactant | 2,2,3,3,3-pentafluoro-propylamine | FC(CN)(C(F)(F)F)F | C3H4F5N
product | N—[(S)-5-(2-Benzyloxy-ethyl)-6-oxo-6,7-dihydro-5H-dibenzo[b,d]azepin-7-yl]-2-hydroxy-2-methyl-N′-(2,2,3,3,3-pentafluoro-propyl)-malonamide | C(C1=CC=CC=C1)OCCN1C2=C(C3=C([C@@H](C1=O)NC(C(C(=O)NCC(C(F)(F)F)(F)F)(C)O)=O)C=CC=C3)C=CC=C2 | C30H28F5N3O5
